US09238656B2
Synthesis of (1S,2S,3R,4R)-3-{6-Bromo-2-[4-(4-methyl-piperazin-1-yl)-phenyl]-3H-imidazo[4,5-b]pyridin-7-ylamino}-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXXVIII)
In a similar fashion to Compound LXXVI, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (40.0 mg, 0.118 mmol) and 4-(4-methyl-piperazin-1-yl)-benzaldehyde (26.6 mg, 0.130 mmol) were reacted to produce 30 mg (49%) of the title compound. mp: 215-218° C., 1H NMR (300 MHz, DMSO-d6): 13.02 (s, 1H), 7.99 (s, 1H), 7.97 (s, 2H), 7.73 (s, 1H), 7.20 (s, 1H), 7.07 (d, J=8 Hz, 2H), 6.99 (d, J=8 Hz, 1H), 6.37 (br s, 2H), 5.27 (t, J=8 Hz, 1H), 3.32 (s, 6H), 2.88 (s, 1H), 2.75 (s, 1H), 2.60 (d, J=7 Hz, 1H), 2.45 (br s, 4H), 2.23 (s, 4H). MS: 522, 524 (M+H), HPLC: 1.86 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.118 mmol, 40.0 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 4-(4-methyl-piperazin-1-yl)-benzaldehyde | 0.130 mmol, 26.6 mg | CN1CCN(CC1)C1=CC=C(C=O)C=C1 | C12H16N2O
product | (1S,2S,3R,4R)-3-{6-Bromo-2-[4-(4-methyl-piperazin-1-yl)-phenyl]-3H-imidazo[4,5-b]pyridin-7-ylamino}-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 30 mg, 49% | BrC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)N2CCN(CC2)C)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C25H28BrN7O
